US06642222B2
Methyl[(1,1-dimethyl-2-propynyl)oxy]acetate
A mechanically stirred suspension of sodium hydride (10.0 g, 0.25 mol) in THF (170 mL) at 0° C. under N2 gas was treated dropwise with a solution of 2-methyl-3-butyn-2-ol (29.1 mL, 0.30 mol) in THF (70 mL). After stirring at 0° C. for 1 hour, the reaction mixture was treated at 0° C. with a solution of methyl bromoacetate (35.5 mL, 0.38 mol) in THF (100 mL). After stirring at ambient temperature overnight, the reaction mixture was quenched into 1M HCl (300 mL) and extracted with ethyl acetate (3×300 mL). The organic layers were combined, dried over Na2SO4, and concentrated to half the volume. The residue was distilled by vacuum distillation (bp. 118-120° C./20 mmHg) to provide the title compound (10.0 g).

reactant | sodium hydride | 0.25 mol, 10.0 g | [H-].[Na+]
reactant | 2-methyl-3-butyn-2-ol | 0.30 mol, 29.1 mL | CC(C)(C#C)O | C5H8O
reactant | methyl bromoacetate | 0.38 mol, 35.5 mL | BrCC(=O)OC | C3H5BrO2
solvent | THF | 170 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Methyl[(1,1-dimethyl-2-propynyl)oxy]acetate | 10.0 g | COC(COC(C#C)(C)C)=O | C8H12O3
